US03981886
2-Amino-5-benzyl-1,3-bis[(3,5-diethylphenoxy)methyl]-1H-benzimidazol-3-ium iodide
Following the procedure of Example 2 and replacing 2-aminobenzimidazole with 2-amino-5-benzylbenzimidazole and replacing 2-bromo-4-chlorophenyl chloromethyl ether with 3,5-diethylphenyl iodomethyl ether, the title compound is obtained.

reactant | 2-amino-5-benzylbenzimidazole | NC=1NC2=C(N1)C=CC(=C2)CC2=CC=CC=C2 | C14H13N3
reactant | 3,5-diethylphenyl iodomethyl ether | ICOC1=CC(=CC(=C1)CC)CC | C11H15IO
product | 2-Amino-5-benzyl-1,3-bis[(3,5-diethylphenoxy)methyl]-1H-benzimidazol-3-ium iodide | [I-].NC1=[N+](C2=C(N1COC1=CC(=CC(=C1)CC)CC)C=CC(=C2)CC2=CC=CC=C2)COC2=CC(=CC(=C2)CC)CC | InChI=1S/C36H41N3O2.HI/c1-5-26-16-27(6-2)20-32(19-26)40-24-38-34-15-14-31(18-30-12-10-9-11-13-30)23-35(34)39(36(38)37)25-41-33-21-28(7-3)17-29(8-4)22-33;/h9-17,19-23,37H,5-8,18,24-25H2,1-4H3;1H
